US07417247B2
1,2,3,4-Tetra(p-tolyl)cyclopenta-1,3-dien-5-one (M=440.58 g/mol)
23.13 g (0.11 mol) of 1,3-bis(p-tolyl)-2-propanone and 26.2 g (0.11 mol) of 4,4′-dimethylbenzil were dissolved in 75 ml of hot ethanol (abs.). 53 ml of a methanolic benzyltrimethylammonium hydroxide solution (0.11 mol Triton B, 35% Fluka) were slowly added dropwise at 80° C. with stirring (caution: the reaction batch froths vigorously) and refluxing was effected for 25 minutes. The crude product was filtered off after three hours, then washed with cold ethanol and recrystallized from toluene (violet red, yield: 46.2 g (95%); m.p.: 244-245° C., literature: 250.4-251.4° C. [15]; elemental analysis for C33H38O: found: C, 89.8%, H, 6.6%. calculated: C, 89.96%, H, 6.41%, MS-El [m/z (rel. intensity): M+440 (100), 412 (47), 206 (98), 191 (16), 189 (10)). The IR spectrum of 1,2,3,4-tetra(p-tolyl)cyclopenta-1,3-dien-5-one is shown in FIG. 10.

reactant | 1,3-bis(p-tolyl)-2-propanone | 0.11 mol, 23.13 g | C1(=CC=C(C=C1)CC(CC1=CC=C(C=C1)C)=O)C | C17H18O
reactant | 4,4′-dimethylbenzil | 0.11 mol, 26.2 g | CC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)C | C16H14O2
reactant | benzyltrimethylammonium hydroxide | 0.11 mol, 53 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetra(p-tolyl)cyclopenta-1,3-dien-5-one | C1(=CC=C(C=C1)C1=C(C(=C(C1=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C33H28O
